Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
latex / morphine / Cardene / nitroglycerin
 
Attending: ___
 
___ Complaint:
Acute renal failure
 
Major Surgical or Invasive Procedure:
Midline placement ___

 
History of Present Illness:
___ w/ PMHx atrial fibrillation, seizure disorder, congestive 
heart failure with reduced EF (though last ECHO in our system 
normal in ___, recent hospitalizations for urosepsis and ___, 
and dementia who presents with a complaint of altered mental 
status. Patient presents as transfer from ___ after 
transferred from her nursing home facility where she was noted 
to have steadily declining mental status described as decreased 
responsiveness, increased lethargy over the ___ hours prior to 
transfer. No reported fevers or respiratory symptoms, and the 
patient was otherwise in her USOH. There was also reports of 
approximately 45 minutes of "intermittent twitching" in her arms 
and legs which were interpreted as seizure activity. She was 
then brought into ___ for further evaluation.

 

At outside hospital she had a NCHCT and CXR which were 
reportedly unremarkable. She was started on empiric vanc/zosyn 
prior to transfer. She was then transferred to ___ for ICU 
admission as her labs were notable for acute renal failure with 
a creatinine of 4.68, elevated phosphorus of 7.2 elevated 
magnesium and hyperkalemia of 8.4 without associated EKG 
changes. She was given 1 g of calcium to transfer. Lactate at 
OSH was 3.5. She also had a L IJ placed at OSH prior to transfer 
and was given ___ of IVF. Patient is full code. 

 

Patient notably w/ dementia at baseline but apparently is able 
to carry on a conversation. Lives at a nursing facility.

 

ROS otherwise negative

 

In ED initial VS: 98.8 93 115/61 22 98% RA 

 

Exam notable for: 

Labs significant for: H/H 9.2/30.2, WBC 32.7 (N:82 Band:1 L:7 
M:9 E:0 ___ Metas: 1 Absneut: 27.14 Abslymp: 2.29 Absmono: 
2.94 Abseos: 0.00 Absbaso: 0.00), plt 312

Na 149, K 7.3, Bicarb 10, BUN 123, Cr 4.3

Coags wnl

Trop-T 0.05, CK 115, MB 4

Lactate 4.7

Dig: 2.3

UA: Cloudy, large leuks, mod blood, neg nitr, 100 prot, 10 ket, 
35 RBC, >182 WBCs, many bacteria, 4 epis

 

Nephrology consulted in the ED due to acute renal failure.

 

Patient was given 1g of keppra in ED due to history of seizures. 
Due to elevated K of 7.3 was given insulin, dextrose, and 
calcium gluconate. Just after being given 
insulin/dextrose/calcium gluconate, patient's eyes were seen to 
roll to the back of her head. She was noted to be asystolic on 
the monitor. Given chest compressions for ___ seconds (10 
seconds per RN note) and able to achieve ROSC.

 

EKG showing aVR elevation and diffuse lateral ST depressions 
that were seen to be worsening on serial EKG. Cardiology 
consulted.

 

On arrival to the MICU, the patient was moving all of her 
extremities spontaneously and able to verbalize being in 
discomfort.  

 
Past Medical History:
 afib  
 seizure disorder  
 PVD  
 Diabetes Type 2  
 Hyperlipidemia  
 Hypertension  
 DEPRESSION  
 Seizure  
 syncope  
 DEMENTIA  
 OSTEOPOROSIS  
 anemia  
 Non-ambulatory at baseline  
 Prior MI ___ s/p 2 stents)  
 Carotid stenosis 

 PSH:  
 Cholecystectomy  
 B/l hip replacement and elbow surgery  
 Toe amputation  

 
Social History:
___
Family History:
Father had afib when ___ yo.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
===================== 
VITALS: 
GENERAL: Uncomfortable, ill-appearing elderly F. Verbalizes 
discomfort during the majority of the exam but unable to 
localize  
HEENT: Opens eyes to voice, PEERL, mucous membranes dry 
NECK: Supple, JVP not elevated, no LAD  
LUNGS: Decreased breath sounds throughout  
CV: Tachycardic, regular rate, no m/r/g, anterior chest wall TTP 
 
ABD: Soft, diffuse TTP, BS+ 
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema    
NEURO: AAOx0, opens eyes to voice and sternal rub, moving 
extremities spontaneously 

DISCHARGE PHYSICAL EXAM
===================== 
VS: 98.1 85 ___ ra
GENERAL: Ill-appearing elderly woman. NAD
HEENT: Opens eyes to voice and painful stimuli, mucous membranes 
dry, no facial droop 
NECK: Supple, JVP not elevated 
LUNGS: Decreased breath sounds throughout  
CV: RRR, no m/r/g, anterior chest wall TTP  
ABD: Soft, diffuse TTP, BS+ 
EXT: Warm, well perfused, 2+ pulses, mottling present in 
bilateral feet 
NEURO: unable to assess orientation as not speaking, opens eyes 
to voice and sternal rub, moving extremities spontaneously  

 
Pertinent Results:
ADMISSION LABS
============= 
___ 10:13AM BLOOD WBC-32.7* RBC-2.62* Hgb-9.2* Hct-30.2* 
MCV-115* MCH-35.1* MCHC-30.5* RDW-17.2* RDWSD-73.0* Plt ___
___ 10:13AM BLOOD Neuts-82* Bands-1 Lymphs-7* Monos-9 Eos-0 
Baso-0 ___ Metas-1* Myelos-0 AbsNeut-27.14* AbsLymp-2.29 
AbsMono-2.94* AbsEos-0.00* AbsBaso-0.00*
___ 10:13AM BLOOD Hypochr-NORMAL Anisocy-1+* Poiklo-2+* 
Macrocy-3+* Microcy-NORMAL Polychr-1+* Burr-2+*
___ 10:13AM BLOOD ___ PTT-33.0 ___
___ 10:13AM BLOOD Glucose-131* UreaN-123* Creat-4.3*# 
Na-149* K-7.3* Cl-108 HCO3-10* AnGap-31*
___ 10:13AM BLOOD ALT-6 AST-15 CK(CPK)-115 AlkPhos-124* 
TotBili-0.5
___ 10:13AM BLOOD Lipase-55
___ 10:13AM BLOOD CK-MB-4
___ 10:13AM BLOOD cTropnT-0.05*
___ 10:13AM BLOOD Albumin-3.2* Calcium-9.5 Phos-7.5* 
Mg-3.7*
___ 10:13AM BLOOD Digoxin-2.3*
___ 02:19PM BLOOD ___ pO2-37* pCO2-42 pH-7.21* 
calTCO2-18* Base XS--11
___ 10:28AM BLOOD Lactate-4.7*
___ 02:19PM BLOOD O2 Sat-64
___ 07:54PM BLOOD freeCa-1.18
___ 11:21AM BLOOD LEVETIRACETAM  LEVEL   50.3   mcg/mL

DISCHARGE LABS
==============
___ 07:14AM BLOOD WBC-5.6 RBC-2.56* Hgb-8.6* Hct-25.9* 
MCV-101* MCH-33.6* MCHC-33.2 RDW-19.3* RDWSD-70.9* Plt Ct-90*
___ 03:21AM BLOOD ___ PTT-56.9* ___
___ 03:21AM BLOOD Glucose-152* UreaN-21* Creat-0.9 Na-145 
K-3.0* Cl-107 HCO3-27 AnGap-11
___ 03:21AM BLOOD Calcium-7.2* Phos-2.0* Mg-1.9

MICRO
=====
___ 11:21 am URINE  CATHETER. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION.

___ 3:18 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 
                            **FINAL REPORT ___
   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 

Wound culture: ***pending
Fecal culture: **** pending
Ova/Parasites: *** pending

IMAGING
=======

+ CXR (___)
Left IJ approach central venous catheter tip projects over the 
mid SVC.  There
is no pneumothorax.  The lungs are clear.  There is no 
consolidation or
effusion.  Cardiomediastinal silhouette is within normal limits. 
 Dense
atherosclerotic calcifications noted in the thoracic aorta.  
Rounded opacity
projecting over left upper quadrant may represent a PEG tube.  
Surgical clips
in the right upper quadrant.

+ PELVIS AP (___)
No acute fracture.

+ RENAL US (___)
Normal renal ultrasound.  No evidence of hydronephrosis.

+ ECHO (___)
CONCLUSIONS
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thicknesses and cavity size 
are normal. Left ventricular systolic function is hyperdynamic 
(EF>75%). There is a mild resting left ventricular outflow tract 
obstruction (22 mmHg at HR 96). Right ventricular chamber size 
and free wall motion are normal. There is abnormal septal 
motion/position. The aortic valve leaflets are mildly thickened 
(?#). No aortic regurgitation is seen. The mitral valve leaflets 
are structurally normal. There is no mitral valve prolapse. 
There is severe mitral annular calcification. The study is 
inadequate to exclude significant mitral valve stenosis though 
demonstrates flow acceleration across the mitral valve 
consistent with at least mild functional stenosis. Trivial 
mitral regurgitation is seen. [Due to acoustic shadowing, the 
severity of mitral regurgitation may be significantly 
UNDERestimated.] There is mild pulmonary artery systolic 
hypertension. There is a trivial/physiologic pericardial 
effusion. 

IMPRESSION: Normal left ventricular wall thickness, cavity size, 
and hyperdynamic regional/global systolic function. Mild left 
ventricular outflow tract obstruction. Aortic regurgitation and 
mitral stenosis likely present (not well quantified on current 
study). Mild pulmonary artery systolic hypertension.

Compared with the prior study (images reviewed) of ___, 
there is now a mild left ventricular outflow tract gradient 
during systole. 

+ CXR (___)
Compared to chest radiographs since ___ most recently ___.
Lung volumes are substantially lower.  New peribronchial 
opacification in the
left lower lobe is more likely atelectasis than pneumonia.  The 
upper lungs
are clear.  No pleural abnormality.  Heart size normal.  Left 
jugular line
ends in the mid SVC, as before.

+ G-TUBE CHECK (___)
A percutaneous gastrostomy tube is present and is adequately 
positioned with
no evidence of extravasated contrast material.

+ EEG (___)
This is an abnormal continuous EEG monitoring study because of
(1) posterior quadrant discharges (L>R), indicative of focal 
areas of cortical
irritability with increased propensity to develop electrographic 
seizures. (2)
Diffuse background slowing with periods of generalized 
suppressions are
consistent with a moderate to severe encephalopathy. This is a 
nonspecific
finding in regards to etiology but can be seen in the setting of
toxic/metabolic derangements, infection or medications. There 
are no
electrographic seizures. Compared to the previous day's 
recording, there is a
significant improvement in the background with much less 
frequent epileptiform
discharges/triphasic appearing waveforms.

 
Brief Hospital Course:
BRIEF SUMMARY STATEMENT:
=============================
___ w/ Afib, seizure disorder, systolic CHF, and dementia, who 
presented with altered mental status, had a cardiac arrest in 
the ED, and was admitted to the ICU for post-arrest management. 
Course was complicated by UTI and acute renal failure, and she 
improved with fluids and antibiotics. Code status changed to 
DNR/DNI. 

ACTIVE ISSUES:
=============================
# CARDIAC ARREST: Patient had transient episode of asystole in 
the ED after getting calcium gluconate/insulin/dextrose for 
hyperkalemia. ROSC achieved after brief (around 10 seconds) of 
chest compressions. Unclear precipitant but concerning 
elevations in aVR and depressions in lateral leads on EKG. 
Cardiac enzymes reassuringly negative. Long pause vs asystole 
potentially from calcium gluconate infusion in the setting of 
elevated dig level. Patient w/ known CAD and documented stents 
in RCA territory. EKG changes potentially demand in the setting 
of being hyperdynamic due to hypovolemia and infected. She was 
closely monitored on telemetry, and remained hemodynamically 
stable throughout rest of hospitalization. 

# URINARY TRACT INFECTION: Patient presented w/o documented 
fevers but with leukocytosis w/ neutrophilic predominance and UA 
suggestive of infection. CXR w/o acute process. LFTs wnl. No 
imaging evidence of pyelonephritis. Chronic ulcers to coccyx and 
___ as potential sources of infection.  New G-tube oozing at 
site, cultured- growing ___ albicans. IP adjusted 
bumper. Afebrile. She was thought to have a UTI, and was started 
initially on Vanc/Zosyn, and Vanc was stopped on ___. 
Vancomycin should continue for 7day course, to end on ___. 

# ___: Patient presented w/ Cr elevated to 4.3 and BUN 123 w/ 
anion gap metabolic acidosis and several electrolyte 
abnormalities including K of 7.3 prior to treatment. Initially 
oliguric.  UA c/w UTI and reportedly from daughter has been 
hospitalized from sepsis w/ urinary origin in the recent past 
resulting in some degree of chronic kidney damage. Electrolytes 
and kidney function improved with fluid resuscitation and 
pressors. Renal US without evidence of obstruction. K now 
normalized. At discharge, Cr was 0.9.
 
CHRONIC ISSUES: 
=============================
# HISTORY OF SEIZURES: Patient w/ baseline dementia but 
reportedly able to participate in conversations w/ family. About 
___ hours of noted increasing lethargy at her facility. NCHCT 
reassuringly w/o acute intracranial abnormality and non-focal 
neuro exam. She has multiple sources of potential toxic 
metabolic encephalopathy due to her presumed infection and acute 
renal failure. EEG with significant posterior predominant 
epileptiform discharges and triphasics. Improved with addition 
of phenytoin, which was discontinued prior to discharge. At 
discharge, she was stable on Keppra 1000mg POBID.

# Atrial fibrillation: Initially required levophed and was 
tachycardic to 110s on this. Rates have been in ___ off 
Levophed. Her digoxin was initially held in setting of ___, and 
was stopped. Her Metoprolol was also stopped due to soft blood 
pressures 
 
# Goals of care: Per patient’s daughter/HCP, patient has had 
repeated hospitalizations over the past year with more time 
spent in the hospital than outside of it. Code status changed to 
DNR/DNI on ___. Palliative care was consulted. 

TRANSITIONAL ISSUES: 
=============================
[ ] Complete 7-day course of Zosyn, to end on ___
[ ] Consider restarting metoprolol if HR persistently >120
[ ] platelets were ___ at discharge. 
[ ] Code status: changed to DNR/DNI 

MEDICATION CHANGES
HELD MEDICATIONS - please restart if needed. 
Docusate Sodium 100 mg PO BID 
Donepezil 10 mg PO QHS  
Ferrous Sulfate 325 mg PO DAILY 
Gabapentin 100 mg PO TID  
Gemfibrozil 600 mg PO BID  
Magnesium Oxide 400 mg PO DAILY  
Ranitidine 300 mg PO DAILY  
TraZODone 12.5 mg PO QHS:PRN insomnia 
metoprolol
Dixoxin  

NEW Medications/Orders Physician ___ 
___ ___ DROP BOTH EYES PRN eye dryness 
Nystatin Cream 1 Appl TP BID  
Piperacillin-Tazobactam  To end on ___  

CHANGED Medications/Orders Physician ___ 
___ SC Sliding Scale Insulin SC - LANTUS WAS STOPPED 
LevETIRAcetam 1000 mg PO Q12H  - DOSE WAS INCREASED

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 10 mg PO QHS 
2. Gemfibrozil 600 mg PO BID 
3. Ranitidine 300 mg PO DAILY 
4. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 
5. Docusate Sodium 100 mg PO BID 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Digoxin 0.125 mg PO DAILY 
8. Magnesium Oxide 400 mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. LevETIRAcetam 500 mg PO DAILY 
11. Metoprolol Tartrate 25 mg PO BID 
12. TraZODone 12.5 mg PO QHS:PRN insomnia 
13. Gabapentin 100 mg PO TID 
14. Glargine 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
15. LevETIRAcetam 250 mg PO QHS 
16. OxyCODONE (Immediate Release) 5 mg PO Q12H:PRN BREAKTHROUGH 
PAIN 

 
Discharge Medications:
1.  Artificial Tears ___ DROP BOTH EYES PRN eye dryness  
2.  Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line 
flush  
3.  Nystatin Cream 1 Appl TP BID  
4.  Piperacillin-Tazobactam 4.5 g IV Q8H 
end ___.  Sodium Chloride 0.9%  Flush ___ mL IV Q8H and PRN, line 
flush  
6.  Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin 
7.  LevETIRAcetam 1000 mg PO Q12H  
8.  Acetaminophen 325 mg PO Q6H:PRN Pain - Mild  
9.  OxyCODONE (Immediate Release) 5 mg PO Q12H:PRN BREAKTHROUGH 
PAIN 
RX *oxycodone 5 mg 1 tablet(s) by mouth q12 hours prn Disp #*20 
Tablet Refills:*0 
10.  Vitamin D 1000 UNIT PO DAILY  
11. HELD- Digoxin 0.125 mg PO DAILY  This medication was held. 
Do not restart Digoxin until your doctor tells you to 
12. HELD- Docusate Sodium 100 mg PO BID  This medication was 
held. Do not restart Docusate Sodium until your doctor tells you 
to
13. HELD- Donepezil 10 mg PO QHS  This medication was held. Do 
not restart Donepezil until your doctor tells you to
14. HELD- Ferrous Sulfate 325 mg PO DAILY  This medication was 
held. Do not restart Ferrous Sulfate until your doctor tells you 
to
15. HELD- Gabapentin 100 mg PO TID  This medication was held. Do 
not restart Gabapentin until your doctor tells you to
16. HELD- Gemfibrozil 600 mg PO BID  This medication was held. 
Do not restart Gemfibrozil until your doctor tells you to
17. HELD- Magnesium Oxide 400 mg PO DAILY  This medication was 
held. Do not restart Magnesium Oxide until your doctor tells you 
to
18. HELD- Metoprolol Tartrate 25 mg PO BID  This medication was 
held. Do not restart Metoprolol Tartrate until your doctor tells 
you to 
19. HELD- Ranitidine 300 mg PO DAILY  This medication was held. 
Do not restart Ranitidine until your doctor tells you to
20. HELD- TraZODone 12.5 mg PO QHS:PRN insomnia  This medication 
was held. Do not restart TraZODone until your doctor tells you 
to

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- Cardiac arrest

SECONDARY DIAGNOSES
- acute kidney injury
- toxic metabolic encephalopathy
- seizure disorder 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you.

Why was I admitted to the hospital?
- You were confused
- Your heart stopped beating 

What happened in the hospital?
- You received fluids and antibiotics to treat your infection
- Your mental status improved

What will happen when I leave the hospital?
- Take all of your medicines as prescribed
- Alert your doctors and ___ if you have any fevers, pain not 
controlled by your medicines, or any other symptoms concerning 
to you 

We wish you all the best in the future.

Sincerely,
Your ___ Care Team 

 
Followup Instructions:
___